US05972975
Step B: 4-Chloropyridine-2,6-dicarboxylic acid, dimethyl ester
N-Ethyl-4-pyridone-2,6-dicarboxylic acid, prepared in Step A of Example 36, was treated with thionyl chloride and heated at 80° C. as described in the literature. The excess thionyl chloride was removed under reduced pressure and the remaining residue was cooled to 0° C. The product was slowly poured into cold methanol with vigorous stirring. The solvent was then removed in vacuo and the crude product was purified by silica gel column chromatography. Two products were isolated: the higher Rf product was 4,6-dichloropicolinic acid methyl ester while the lower Rf product was the title compound.

reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 4,6-dichloropicolinic acid methyl ester | COC(C1=NC(=CC(=C1)Cl)Cl)=O | C7H5Cl2NO2
product | 4-Chloropyridine-2,6-dicarboxylic acid, dimethyl ester | ClC1=CC(=NC(=C1)C(=O)OC)C(=O)OC | C9H8ClNO4
